US07642264B2
4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyridine
The title compound was prepared 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyridine (example A.27) (2.3 g, 10 mmol) and commercially available 4-iodo-imidazole (2.248 g, 12 mmol) according to the general procedure IVa. Obtained as an off-white solid (2.1 g, 55%). MS (ISP) 396.0 [(M+H)+].

reactant | 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyridine | 10 mmol, 2.3 g | ClC1=NC(=CC(=C1)C1=CC=C(C=C1)Cl)C | C12H9Cl2N
reactant | 4-iodo-imidazole | 12 mmol, 2.248 g | IC=1N=CNC1 | C3H3IN2
product | 4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyridine | ClC1=CC=C(C=C1)C1=CC(=NC(=C1)C)N1C=NC(=C1)I | C15H11ClIN3
